US04751295
7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-cyclopentyloxyiminoacetamido]-3-[3-(4-carbamoylpyridinio)-1-propenyl]-3-cephem-4-carboxylate (I-5H) (E isomer)
To a stirred solution of 139 mg (0.31 mmole) of 7-amino-3-[3-(4-carbamoylpyridinio)-1-propenyl]-3-cephem-4-carboxylate hydrochloride in 3.5 ml of 50% aqueous acetone in an ice-cooling bath was added portionwise 120 mg (0.44 mmole) of 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-cyclopentyloxyiminoacetyl chloride hydrochloride (from Preparation No. 27). The mixture was adjusted to pH 6.5-7.0 with 2N Na2CO3 (0.9 ml) and stirred for 1 hour at 10° C. The reaction mixture was acidified to pH 2 with 1N HCl and evaporated under reduced pressure. The residue was chromatographed on a column of HP-20 resin (20 ml) and was eluted with 300 ml of water and 30% CH3OH-H2O, successively. Fractions containing the product were combined and concentrated in vacuo. The residue was treated with 60 ml of acetone to give 111 mg (83 %) of the title compound I-5H. Mp. 160° C. (dec.). Estimated purity 70%.

reactant | 7-amino-3-[3-(4-carbamoylpyridinio)-1-propenyl]-3-cephem-4-carboxylate hydrochloride | 0.31 mmole, 139 mg | Cl.NC1[C@@H]2N(C(=C(CS2)C=CC[N+]2=CC=C(C=C2)C(N)=O)C(=O)[O-])C1=O
reactant | 2-(5-amino-1,2,4-thiadiazol-3-yl)-2-cyclopentyloxyiminoacetyl chloride hydrochloride | 0.44 mmole, 120 mg | Cl.NC1=NC(=NS1)C(C(=O)Cl)=NOC1CCCC1
reactant | Na2CO3 | 2N, 0.9 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 3.5 ml | CC(=O)C | C3H6O
product | 7-[2-(5-Amino-1,2,4-thiadiazol-3-yl)-2-cyclopentyloxyiminoacetamido]-3-[3-(4-carbamoylpyridinio)-1-propenyl]-3-cephem-4-carboxylate | 111 mg, 83 % | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC[N+]2=CC=C(C=C2)C(N)=O)C(=O)[O-])C1=O)=NOC1CCCC1 | C25H26N8O6S2
